data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2221,"CCC1CC([NH2+:1][H:2])C(SC)CC1CCC1=CC=CC=C1.CSC.F[B-](F)(F)F.[NH3:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5687,"CO.C[C+:1]=C1CCCN(CC2=CC=CC=C2)C1.O.[N-]=[N+]=[N-:2].[Na+]|(2, 1)"
train,pmechdb_split_0,0,3974,"C=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8866,"CC[CH:1]=[CH:2][C:3](CC)=[O:4].O[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,231,"CC(C)[C:1]1([H:2])OC([N+](=O)[O-])=C[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,8142,"CC(C)(C)O.CCOC(=O)C1=C([O-:1])C(C)CCC1.[K+:2]|(1, 2)"
train,pmechdb_split_0,0,5650,"CN[C:1](C)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8616,"CC1CCC(CCOCC2=CC=CC=C2)OC1CC(CC1C[C+](C[Si:1](C)(C)C)CC(CCO[Si](C(C)C)(C(C)C)C(C)C)O1)O[B-](F)(F)F.CC[O:2]CC|(2, 1)"
train,pmechdb_split_0,0,4533,"[S-][CH+:1][OH:2]|(2, 1)"
train,pmechdb_split_0,0,4914,"CC(=O)[O-:1].CCOC(=O)C(CC(=O)C1=CC=CC=C1)C(C)(O)[NH2+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1778,"C=CC1=C2C(=CC=C1)N(C(=O)C1=CC=CC=C1)CC2C(=O)N(C)C(=O)[CH:1]=[C:2](OC)[O-:3].CC[NH+](CC)CC.CS(=O)(=O)[N-][N+:4]#[N:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,7100,"C=C1CC(C(=O)OC)(C(=O)OC)C[C+]1C[Si:1](CC)(CC)CC.O=C(C(F)(F)F)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,812,"CC[NH+:1](CC=C[N-]C)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10241,"CO[P:1](=O)(CC[O-:2])OC|(2, 1)"
train,pmechdb_split_0,0,9517,"CCC1C(CCCC[O+:1](S(C)(=O)=O)[H:2])C2C(CCN2C(=O)OC)C2C(C)C(=O)OC12.CC[N:3](CC)CC.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5965,"C1CC[CH:1]=[C:2]([O-:3])C1.CCO[C:4](OCC)=[O:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9578,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])OC(Br)=C[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,8871,"CC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)[OH:1].CCOC(=O)NN(C(=O)OCC)[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])COC1=CC=CC=C1|(1, 2)"
train,pmechdb_split_0,0,7587,"CC(Br)C(O)(Br)[O+:1](C)[H:2].[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8040,"CCO.CC[N+]1=[C:1]([C:2](C2=CC=C(F)C=C2)(C(C2=CC=CC=C2)C(C(=O)OC)C(=O)C(C)C)[O-:3])SC(CCO)=C1C.OCC[NH+](CCO)CCO.[Br-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4786,"CC(C)(C)[Cl:1].[Cl][Al:2]([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,8120,"CC1(C)CC(=O)C=C(O[C:1](C)([O-:2])[Cl:3])C1.CC[NH+](CC)CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6367,"C[O+:1]=[CH2:2].[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1813,"C1CC[NH+:1]([H:2])CC1.C=C1C2=CC=CC=C2C2=C1C=CC=C2.O=C(CNC(=O)[O-:3])NC1=CC=C(Cl)C=C1I|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,263,"CCCC[C:1](C(C)CCC1CCCC1)=[N+:2](CC)C(CC)C1CCCCC1.CCNC(CC)C1CCCCC1.N#C[BH2-:3][H:4].O.[Na+]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8935,"CC[N:1](CC)CC.C[Si-](C)(C)(Cl)[O+:2](CCO)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1806,"C1C[NH:1]CCO1.O=C(C1=CC=CC=C1)[CH2:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3098,"C1COCCO1.CC(C)CC(CC1CCCCC1)O[S:1](Cl)([O-:2])[Cl:3].CC(C)CC([OH2+])CC1CCCCC1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2967,"COC1=C[CH+:1][C:2](S(=O)(=O)O)([H:3])O1.O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4526,"C1=CC=[NH+]C=C1.C[CH:1]=[S+:2]C1=CC=CC=C1.O=C(C(F)(F)F)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,716,"CCCOC(CCC)=[O+:1][Na:2].[BH4-]|((2, 1), 1)"
train,pmechdb_split_0,0,4736,"C[C:1](N)([NH2:2])[OH+:3]C.[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,129,"CC(C)(NO)[O-:1].O[NH2+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2664,"CC(C)C1CCC2=CC(=O)C(C[N:1](C)C)CCC21C.[CH3:2][I:3].[I-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4768,"CNC(CC#N)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5639,"CC(=O)[O:1][H:2].O.O=C(OCC1=CC=CC=C1)N1CCC(C2=CC(C3=CC=NC=C3)C(C3=CC=C(F)C=C3)([OH:3])N2)CC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3888,"C[P+:1](C)(O)[O:2][CH3:3].[Cl-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,8821,"CC(CCCCN1C(=O)C2=C(N=CN2CC2=CC=CC=C2)N(C)C1=O)O[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCOC(=O)N[N-:1]C(=O)OCC.CN1CC(O[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CC1=O.O=C(C1=CC=C([N+](=O)[O-])C=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6594,"C1=CN=C([CH2-:1])C=C1.[CH2:2]=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3918,"[Br:1][Br:2].[CH2:3]=[CH:4][OH:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6842,"[CH2:1]([NH2:2])[I:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2586,"CC(C)[CH2:1][Br:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2411,"COC(C1CCCC1N(C(C)C)C(C)C)=[O+:1][Li-:2][Br]|((2, 1), 1)"
train,pmechdb_split_0,0,10103,"CC(C=CC1=CC=CC=C1)[O-:1].CCC[CH2][Al]([CH2]C(C)C)[CH2]C(C)C.[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,1445,"CCO[C:1]1=[C:2](Br)[CH:3]=[CH:4]C=C1.[Br:5][Br:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,6500,"CCC(C)C1=C2CN3C(=O)C4=C(C=C3C2=NC2=C1C=C(CCCC(C)C)C=C2)C(O)(CC)C(O)(O)[O:1]C4.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
